Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall, R ___ rib fx
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ with a history of HTN and osteopenia s/p a T12/L1 
kyphoplasty in ___ recently seen in the ED earlier this 
month for new T11, L3,and L5 compression fractures treated 
non-operatively with ___ now seen in consultation for 
trauma evaluation following a fall down several stairs.

Pt reports that she tripped on her patio stairs while heading 
outside this evening and hit her head/right chest on the railing 
while stabilizing herself. Given intense pain in her right elbow 
and chest she presented to the emergency department for workup 
and evaluation.

She denies any preceding symptoms such as dizziness, chest pain, 
or SOB. She recalls all events before and after her fall and has 
had no headaches, changes in vision, weakness in her 
extremities, or sensory loss. 

 
Past Medical History:
PMHx: Osteoporosis, HTN, lumbar compression fractures

PSHx: T12/L1 kyphoplasty ___

 
Social History:
___
Family History:
non-contributory

 
Physical Exam:
Admission Physical Exam:

97.3 98 144/85 18 98RA 
Gen: NAD, comfortable
HEENT: scalp hematoma along occiput, no lacerations or
deformities, no mid-face tenderness
CV: RRR
R: Clear ___, ttp along R posterior mid/lower chest
Abd: soft, NT/ND, no masses, no hernias or bruising noted
Ext: there is a small superficial wound on her left hand, but no
tenderness or laceration. all extremities demonstrate normal
sensation and motor. no bruising or long-bone deformities.
Spine: no cervical spine or thoracic spine tenderness. Note
tenderness along lower thoracic/lumbar spine without deformity. 

Discharge Physical Exam:
VS:  T: 98.2 PO BP: 126/82 L Lying HR: 90 RR: 18 O2: 96% Ra 
GEN: A+Ox3, NAD
HEENT: atraumatic
CV: RRR
PULM: CTA b/l
CHEST: Symmetric expansion, no crepitus 
ABD: soft, non-distended, non-tender
EXT: wwp, no edema b/l
 
Pertinent Results:
IMAGING:

___: ELBOW (AP, LAT & OBLIQUE) RIGHT:
Normal right elbow x-ray examination.

___: RIB BILAT, W/AP CHEST:
  
Mild cortical deformity of the right posterior sixth and seventh 
ribs without a discrete fracture line.  Findings may represent 
rib fractures of uncertain chronicity. 

___: PELVIS (AP ONLY):
No acute fracture or dislocation.

___: CT HEAD W/O CONTRAST:
Small hematoma overlying the right parieto-occipital scalp.  No 
evidence of acute fracture or intracranial hemorrhage. 

LABS:

___ 01:19AM   GLUCOSE-112* UREA N-10 CREAT-0.5 SODIUM-134* 
POTASSIUM-4.0 CHLORIDE-95* TOTAL CO2-26 ANION GAP-13
___ 01:19AM   WBC-8.7 RBC-4.26 HGB-13.0 HCT-40.0 MCV-94 
MCH-30.5 MCHC-32.5 RDW-14.6 RDWSD-51.0*
___ 01:19AM   NEUTS-79.7* LYMPHS-9.4* MONOS-8.5 EOS-1.3 
BASOS-0.5 IM ___ AbsNeut-6.94* AbsLymp-0.82* AbsMono-0.74 
AbsEos-0.11 AbsBaso-0.04
___ 01:19AM   PLT COUNT-251
___ 10:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG*
___ 10:40PM URINE  RBC-4* WBC-2 BACTERIA-FEW* YEAST-NONE 
EPI-4
___ 10:40PM URINE  MUCOUS-RARE*
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F who presented to ___ s/p fall 
downstairs and was found to have right posterior ___ rib 
fractures and a small hematoma overlying the right 
parieto-occipital scalp with no evidence of acute fracture or 
intracranial hemorrhage. The patient was admitted to the Trauma 
Surgery service for pain control, pulmonary toilet and to work 
with Physical Therapy.

The patient remained hemodynamically stable.  She remained 
stable from a cardiac and pulmonary standpoint; vital signs were 
routinely monitored.  Early ambulation, pulmonary toilet and 
incentive spirometry were encouraged.  Pain was controlled with 
acetaminophen, tramadol and IV toradol prn. The patient stated 
her prescription for the tramadol she was taking at home 
recently increased from 50-100 mg Q8H prn to Q6H prn, and so 
this regimen was ordered for her at the time of discharge.  The 
patient tolerated a regular diet, intake and output were 
monitored.  The patient had no s/s of infection. 

Physical Therapy was consulted and she was approved to go home 
with home Physical Therapy and a pediatric walker.  At the time 
of discharge, the patient was hemodynamically stable, tolerating 
a regular diet, ambulating with assist and voiding without 
issue.  A follow-up appointment was arranged with her PCP, the 
discharge instructions were reviewed with the patient and the 
patient verbalized understanding. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcitonin Salmon 200 UNIT NAS DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. TraMADol 50-100 mg PO Q8H:PRN Pain - Moderate 
5. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
7. Calcium Carbonate 1500 mg PO BID 
8. Alendronate Sodium 70 mg PO WEEKLY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
please hold for loose stool   
2.  Senna 8.6 mg PO BID:PRN constipation   
3.  Alendronate Sodium 70 mg PO QSUN  
4.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
5.  Calcitonin Salmon 200 UNIT NAS DAILY  
6.  Calcium Carbonate 1500 mg PO BID  
7.  Lisinopril 5 mg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
10.  TraMADol 50-100 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0 
11.Pediatric Rolling Walker
Dx: Gait instability
Px: Good
Length of need: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-Right posterior ___ rib fractures 
-Small hematoma overlying the right parieto-occipital scalp 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ after 
a fall.  You sustained two right rib fractures and a small right 
scalp hematoma (soft tissue bruising).  Your injuries will heal 
on their own.  You worked with physical therapy and are ready to 
be discharged home with home visiting nursing services, physical 
therapy services and a walker.  You have a follow-up appointment 
scheduled with your primary care provider (please refer to 
"Recommended Follow-up" section below). 

You are now ready to be discharged home to continue your 
recovery.  Please follow the discharge instructions below to 
ensure a safe recovery at home:

Regarding your rib fractures:

* Your injury caused right-sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
   
General Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___